US04166131
2-ethyl-6-chloro-2-methyl-5-indanacetic acid [process variant (d)]
A solution of 20 g of potassium hydroxide in 40 cc of water is added to a solution of 11.5 g of 2-ethyl-6-chloro-2-methyl-5-indanacetic acid methyl ester in 250 cc of methanol, and the solution is boiled at reflux for one hour. The cooled solution is concentrated, diluted with water and the neutral components are extracted with ether. The aqueous phase is acidified with hydrochloric acid, extracted with ether, the ether extract is washed with water, dried over sodium sulphate and concentrated by evaporation. The resulting 2-ethyl-6-chloro-2-methyl-5-indanacetic acid is recrystallized from hexane and has a M.P. of 87°-89°.

reactant | potassium hydroxide | 20 g | [OH-].[K+]
reactant | 2-ethyl-6-chloro-2-methyl-5-indanacetic acid methyl ester | 11.5 g | COC(CC=1C=C2CC(CC2=CC1Cl)(C)CC)=O | C15H19ClO2
solvent | water | 40 cc | O | H2O
solvent | methanol | 250 cc | CO | CH4O
product | 2-ethyl-6-chloro-2-methyl-5-indanacetic acid | C(C)C1(CC2=CC(=C(C=C2C1)CC(=O)O)Cl)C | C14H17ClO2
